US08912200B2
Step 1: 1-Methyl-4-(1-{4-[(trimethylsilyl)ethynyl]phenyl}piperidin-4-yl)piperazine
A suspension of [(4-bromophenyl)ethynyl](trimethyl)silane (2.210 g, 8.73 mmol), Pd2(dba)3 (0.400 g, 0.436 mmol), 2-dicyclohexylphosphino-2′-(N,N′-dimethylamino)biphenyl (0.172 g, 0.436 mmol) in anhydrous THF (60 mL) was degassed and backfilled with Argon for three times. 1-Methyl-4-(piperidin-4-yl)piperazine (4.00 g, 21.82 mmol) was added and the mixture was degassed and backfilled with Argon for three times again. Finally LiHMDS 1 M in THF (17.46 mL) was added by a syringe and the mixture was heated to reflux for 2 h. After cooling to room temperature the reaction mixture was filtered on a pad of celite washing with THF (300 mL). The filtrate was evaporated under vacuum and the black oil so obtained was purified by flash chromatography on silica gel (DCM/MeOH/NH4OH 90/10/0.2) to afford the title compound as a yellow solid (2.55 g, 82%).

reactant | [(4-bromophenyl)ethynyl](trimethyl)silane | 8.73 mmol, 2.210 g | BrC1=CC=C(C=C1)C#C[Si](C)(C)C | C11H13BrSi
reactant | 1-Methyl-4-(piperidin-4-yl)piperazine | 21.82 mmol, 4.00 g | CN1CCN(CC1)C1CCNCC1 | C10H21N3
solvent | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 0.436 mmol, 0.400 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2-dicyclohexylphosphino-2′-(N,N′-dimethylamino)biphenyl | 0.436 mmol, 0.172 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
product | 1-Methyl-4-(1-{4-[(trimethylsilyl)ethynyl]phenyl}piperidin-4-yl)piperazine | 2.55 g, 82% | CN1CCN(CC1)C1CCN(CC1)C1=CC=C(C=C1)C#C[Si](C)(C)C | C21H33N3Si
